US06613781B2
Preparation of 5-Fluoro-3-(4-piperidinylmethyl)-1H-indole
A mixture of 5-fluoro-3-(4-pyridinylmethyl)-1H-indole (4.50 g, 20 mmol) and PtO2 (0.50 g, 2.2 mmol) in ethanol and acetic acid is hydrogenated under 45 psi at room temperature for 48 hr. After filtration of the catalyst and concentration of the filtrate, the residue is taken up with water, basified to pH 11 with 1N NaOH and extracted with CH2Cl2/iPrOH (3/1). The combined extracts are dried over Na2SO4 and concentrated in vacuo to give a pink solid. The solid is crystallized from EtOAc to afford the title compound as a white solid, 4.0 g (86%) mp 155-157° C. (Lit. mp 163° C., Malleron et al, J. Med. Chem. 1193,36,1194).

reactant | 5-fluoro-3-(4-pyridinylmethyl)-1H-indole | 20 mmol, 4.50 g | FC=1C=C2C(=CNC2=CC1)CC1=CC=NC=C1 | C14H11FN2
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 2.2 mmol, 0.50 g | O=[Pt]=O
product | 5-Fluoro-3-(4-piperidinylmethyl)-1H-indole | FC=1C=C2C(=CNC2=CC1)CC1CCNCC1 | C14H17FN2
